US04861916
Preparation of 4-(2-Hydroxyethoxy)-Benzophenone
43 g (0.15 mole) of 4-(2-acetoxyethoxy)-benzophenone are dissolved in 60 ml of ethanol and boiled with 17 ml of 32% strength sodium hydroxide solution under reflux, with stirring, for 20 minutes. After cooling, the reaction mixture is neutralized with hydrochloric acid, whereupon the end product is precipitated as a white solid. The reaction mixture is poured into 500 ml of water, and the solid is filtered off with suction, washed and dried in vacuo at 50° C. for 5 hours. This gives 35 g (95%) of 4-(2-hydroxyethoxy)-benzophenone, melting point 82° C.

reactant | 4-(2-acetoxyethoxy)-benzophenone | 0.15 mole, 43 g | C(C)(=O)OCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H16O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(2-Hydroxyethoxy)-Benzophenone | OCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H14O3
